US08541588B2
3-chloro-N-(2,4-dimethoxybenzyl)-4-fluoro-N-1,2,4-thiadiazol-5-ylbenzenesulfonamide
Prepared according to Preparation 207 using (2,4-dimethoxybenzyl)-[1,2,4]thiadiazol-5-yl-amine (Preparation 14) and 3-chloro-4-fluorobenzenesulfonyl chloride.

reactant | (2,4-dimethoxybenzyl)-[1,2,4]thiadiazol-5-yl-amine | COC1=C(CNC2=NC=NS2)C=CC(=C1)OC | C11H13N3O2S
reactant | 3-chloro-4-fluorobenzenesulfonyl chloride | ClC=1C=C(C=CC1F)S(=O)(=O)Cl | C6H3Cl2FO2S
product | 3-chloro-N-(2,4-dimethoxybenzyl)-4-fluoro-N-1,2,4-thiadiazol-5-ylbenzenesulfonamide | ClC=1C=C(C=CC1F)S(=O)(=O)N(C1=NC=NS1)CC1=C(C=C(C=C1)OC)OC | C17H15ClFN3O4S2
